US06787544B2
In 6 mL of dichloromethane is suspended 0.30 g of methyl 3-hydroxy-2-pyrazinecaroxylate obtained according to the method described in literature [J. Heterocycl. Chem., 34, 27 (1997)]. To the suspension are successively added 0.54 mL of triethylamine and 0.29 g of glycine methyl ester hydrochloride. The resulting mixture is stirred at ambient temperature for 5 hours. After cooling, the solvent is distilled off under reduced pressure. The residue is purified by reverse phase column chromatography (eluent: water) to obtain 0.16 g of methyl 2-{[(3-hydroxy-2-pyrazinyl)-carbonyl]amino}acetate.

reactant | methyl 3-hydroxy-2-pyrazinecaroxylate | 0.30 g | OC=1C(=NC=CN1)C(=O)OC | C6H6N2O3
reactant | triethylamine | 0.54 mL | C(C)N(CC)CC | C6H15N
reactant | glycine methyl ester hydrochloride | 0.29 g | Cl.COC(CN)=O
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | methyl 2-{[(3-hydroxy-2-pyrazinyl)-carbonyl]amino}acetate | 0.16 g | OC=1C(=NC=CN1)C(=O)NCC(=O)OC | C8H9N3O4
